Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13][H:14],4.9729917095
[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.92383389388
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],3.96005269481
[H:9].[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.8541914366900003
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:10][H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],6.14752335304
[C:4]([H:5])([H:6])=[C:7][O:8][H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],0.8870288963709999
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:8](=[C:7])[H:9]>>[C:1][C:2]([H:3])([H:4])[C@:5]12[O:6][C:7]1[C:8]2[H:9],0.56629818305
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[H:9],-2.39585483369
[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-8.53338489767
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],10.56869066
[H:1][C:2]1=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12]1>>[H:1][C:2][O:12][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],2.40841662093
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-1.92442645886
[H:6].[O:1][O:2][C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.19407631342
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.886501091640001
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],2.14066226
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7770421666799998
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-6.8212823486800005
[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.93229245906
[C:1]#[C:2][C:3][O:6][H:7].[C:4]#[C:5]>>[C:1]#[C:2][C:3]([C:4]#[C:5])[O:6][H:7],-5.25483802727
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:14],4.26066441212
[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.478717209819
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.9939220792
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C@@:3]([H:4])([O:5][H:6])[C@:7]1([H:8])[C:9]([H:10])[H:11],0.93204500608
[H:8].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.99494833836
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][H:4],4.206212613480002
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],-7.30402659475
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[H:14].[H:1][C:2]([H:3])([H:4])/[C:5]=[C:12](\[H:13])[C:15]([H:16])([H:17])[H:18],1.2398167588700002
[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-3.35901234644
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.39264829
